US05331007
To a stirred solution of 1,2-bis(4-fluorophenyl)-2-propylamine (12.0 g, 0.049 mol) in chloroform (200 ml) under nitrogen was added N-CBZ-glycine (10.16 g, 0.049 mol) and then a solution of dicyclohexylcarbodiimide (11.35 g, 0.055 mol) in chloroform (100 ml) and the mixture stirred for 30minutes, then filtered and the solvent evaporated. The residue was treated with ethyl acetate (200 ml), filtered, an additional 200 ml of ethyl acetate added, and then washed with cold 1% HCl (200 ml), brine (200 ml), dried, and the solvent evaporated to give a pale yellow oil. This was dissolved in methanol (400 ml) and 10% HCl (35 ml) and hydrogenated at 40 psi in a Parr apparatus over 2.5 g of 5% Pd/C catalyst for 2.5 hours. The catalyst was removed by filtration, solvent evaporated and the residue dissolved in water (300 ml) and chloroform (500 ml), basified to pH 11 with 50% NaOH, shaken and separated. The aqueous phase was extracted with chloroform (2×200 ml) and the combined organic phases washed with water (2×150 ml), brine (150 ml), dried and evaporated to a pale yellow oil which solidified on standing. The solid was recrystallised three times from cyclohexane (150 ml) and ethanol (10 ml) and vacuum driedto give 4.44 g of 2-amino-N-[1,2bis(4-fluorophenyl)-1-methylethyl]acetamide, mp 130°-131° C.

reactant | 1,2-bis(4-fluorophenyl)-2-propylamine | 0.049 mol, 12.0 g | FC1=CC=C(C=C1)CC(C)(C1=CC=C(C=C1)F)N | C15H15F2N
reactant | N-CBZ-glycine | 0.049 mol, 10.16 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | dicyclohexylcarbodiimide | 0.055 mol, 11.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HCl | 35 ml | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 400 ml | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | 2-amino-N-[1,2bis(4-fluorophenyl)-1-methylethyl]acetamide | 4.44 g | NCC(=O)NC(CC1=CC=C(C=C1)F)(C)C1=CC=C(C=C1)F | C17H18F2N2O
